US05665730
3. 3-Formyl-8-(2-methoxycarbonylamino-6-methylbenzyloxy)-2-methylimidazo[1,2-a]pyridine
2.6 g of 3-formyl-8-hydroxy-2-methylimidazo[1,2-a]pyridine are dissolved in 50 ml of dry acetonitrile with exclusion of moisture at 50° C. and, after cooling to RT, 2.8 g of commercial potassium fluoride (50% by weight) on kieselguhr (for example Celite®) are added. A solution of 3.6 g of 2-methoxycarbonylamino-6-methylbenzyl bromide in 50 ml of dry acetonitrile is added dropwise, and the mixture is heated at 70° C. for 6 h. After cooling to RT, the mixture is poured into ice-water, adjusted to pH 9 with a few drops of 6N sodium hydroxide solution and extracted with ethyl acetate. The collected organic phases are washed with water and dried over sodium sulfate. Stripping off the solvent in vacuo and stirring in a little cold methanol result in 3.2 g of the title compound of m.p. 196°-198° C.

reactant | 3-formyl-8-hydroxy-2-methylimidazo[1,2-a]pyridine | 2.6 g | C(=O)C1=C(N=C2N1C=CC=C2O)C | C9H8N2O2
reactant | potassium fluoride | 2.8 g | [F-].[K+]
reactant | 2-methoxycarbonylamino-6-methylbenzyl bromide | 3.6 g | COC(=O)NC1=C(CBr)C(=CC=C1)C | C10H12BrNO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | sodium hydroxide | 6N, a few drops | [OH-].[Na+]
product | 3-Formyl-8-(2-methoxycarbonylamino-6-methylbenzyloxy)-2-methylimidazo[1,2-a]pyridine | 3.2 g | C(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2C)NC(=O)OC)C | C19H19N3O4
